US06498172B1
3-(3-{[(2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-(pyridine-2-sulfonyl)-amino]-methyl}-pheny)-propionic acid methyl ester
The title compound of Step A was prepared following the method described in Step B of Example 1 from 3-(3-{[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester, prepared in Step A of Example 12n, and pyridine-2-sulfonyl chloride hydrochloride, of Preparation 47, using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.66 (m, 1H), 7.95 (d, 1H), 7.85 (m, 1H), 7.45 (m, 1H), 7.15-6.91 (m, 4H), 6.68-6.54 (m, 3H), 4.45 (s, 2H), 4.36 (s, 2H), 4.19 (s, 4H), 3.68 (s, 3H), 2.82 (t, 2H), 2.53 (t, 2H); MS 483 (M+1).

reactant | 3-(3-{[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC2=C(OCCO2)C=C1)=O | C20H23NO4
reactant | pyridine-2-sulfonyl chloride hydrochloride | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-(pyridine-2-sulfonyl)-amino]-methyl}-pheny)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C1=NC=CC=C1)CC1=CC2=C(OCCO2)C=C1)=O | C25H26N2O6S
